US05705516
A solution of sodium disulfide (previously prepared from sodium sulfide nonahydrate (53 g) and sulfur (7.0 g) in ethanol (250 cm3)) was added to 1-bromo4,4-difluorobut-3-ene (50 g) in ethanol (100 cm3). The mixture was gradually heated and stirred under reflux for 2 hours, then cooled and evaporated under reduced pressure. The residue was extracted with diethyl ether, the organic phase filtered to remove sodium bromide and the ether evaporated under reduced pressure to give a liquid which was distilled at 16 mm Hg, bp 120° C. to give the bis-(4,4-difluorobut-3-enyl)disulfide (24 g) as a colourless liquid.

reactant | sodium disulfide | [S-][S-].[Na+].[Na+]
reactant | sodium sulfide nonahydrate | 53 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | sulfur | 7.0 g | [S] | S
reactant | 1-bromo4,4-difluorobut-3-ene | 50 g | BrCCC=C(F)F | C4H5BrF2
solvent | ethanol | 250 cm3 | C(C)O | C2H6O
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | bis-(4,4-difluorobut-3-enyl)disulfide | 24 g | FC(=CCCSSCCC=C(F)F)F | C8H10F4S2
